* NGSPICE file created from SMCNR_SE_2st_AMP_flat.ext - technology: sky130A

.subckt SMCNR_SE_2st_AMP_flat vdda gnda vin vip ibias vout
X0 vout a_20_494# gnda gnda sky130_fd_pr__nfet_01v8 ad=0.259 pd=3.31 as=0.259 ps=3.31 w=1.48 l=10
X1 gnda a_2100_n30# a_20_494# gnda sky130_fd_pr__nfet_01v8 ad=0.2625 pd=3.35 as=0.2625 ps=3.35 w=1.5 l=10
X2 a_2100_n30# vin a_4024_586# vdda sky130_fd_pr__pfet_01v8 ad=1.1656 pd=15.35 as=1.1656 ps=15.35 w=7.52 l=8.24
X3 gnda a_2100_n30# a_4345_n10# gnda sky130_fd_pr__nfet_01v8 ad=0.2625 pd=3.35 as=0.2625 ps=3.35 w=1.5 l=10
X4 vout ibias vdda vdda sky130_fd_pr__pfet_01v8 ad=0.0385 pd=0.79 as=0.0385 ps=0.79 w=0.22 l=10
X5 vdda ibias a_785_2846# vdda sky130_fd_pr__pfet_01v8 ad=0.0495 pd=0.89 as=0.0495 ps=0.89 w=0.22 l=9.9
X6 a_4024_586# ibias vdda vdda sky130_fd_pr__pfet_01v8 ad=0.0495 pd=0.89 as=0.0495 ps=0.89 w=0.22 l=9.9
X7 a_4024_586# vip a_20_494# vdda sky130_fd_pr__pfet_01v8 ad=1.1656 pd=15.35 as=1.1656 ps=15.35 w=7.52 l=8.24
C0 ibias a_20_494# 0.013015f
C1 vin a_4024_586# 0.913068f
C2 vdda a_4024_586# 0.681287f
C3 vdda a_785_2846# 0.01153f
C4 vip a_4024_586# 0.37862f
C5 vdda vin 1.40613f
C6 a_4345_n10# a_2100_n30# 0.088027f
C7 vip vin 0.002455f
C8 vdda vip 1.57994f
C9 vdda vout 0.60306f
C10 vout vip 0.090546f
C11 vdda a_20_494# 0.154685f
C12 a_2100_n30# a_4024_586# 0.016632f
C13 vip a_20_494# 0.376615f
C14 vin a_2100_n30# 0.433347f
C15 vout a_20_494# 0.968451f
C16 ibias a_4024_586# 0.028095f
C17 vdda a_2100_n30# 1.22141f
C18 ibias a_785_2846# 0.025758f
C19 vip a_2100_n30# 0.114147f
C20 ibias vin 0.002111f
C21 vout a_2100_n30# 4.18e-19
C22 ibias vdda 5.6299f
C23 vdda a_4345_n10# 0.005259f
C24 ibias vip 0.05737f
C25 ibias vout 0.066233f
C26 a_2100_n30# a_20_494# 0.120446f
C27 vin gnda 1.3278f
C28 vip gnda 1.21452f
C29 vout gnda 0.403453f
C30 ibias gnda 5.27293f
C31 vdda gnda 47.248802f
C32 a_4345_n10# gnda 0.065072f
C33 a_2100_n30# gnda 6.408319f
C34 a_20_494# gnda 3.52732f
C35 a_4024_586# gnda 0.427798f
C36 a_785_2846# gnda 0.00878f
.ends
